US06057369
A solution of sodium hydroxide (0.40 g, 10 mmol) in water (6 mL) is added to a solution of methyl 3-(4-methoxybenzenesulfonyl)-2,2-dimethyl-7-phenylheptanoate (1.00 g, 2.4 mmol) in MeOH (8 mL). The reaction is heated at reflux 24 hours. The solvent is then removed in vacuo, CH2Cl2 (50 mL) added and the solution washed with 1 N HCl (2×40 mL). The organic layer is dried over MgSO4 and the solvent removed in vacuo to yield 3-(4-methoxybenzenesulfonyl)-2,2-dimethyl-7-phenylheptanoic acid (0.64 g, 66%): 1H NMR (300 MHz, CDCl3) δ 7.90-7.80 (m, 2H), 7.26-7.16 (m, 3H), 7.00-6.92 (m, 4H), 4.05-3.92 (m, 1H), 3.78 (s, 3H), 2.40-2.30 (m, 2H), 2.00-1.85 (m, 1H), 1.70-1.55 (m, 1H), 1.44 (s, 3H), 1.40-1.25 (m, 3H), 1.21 (s, 3H), 1.12-0.95 (m, 1H).

reactant | sodium hydroxide | 10 mmol, 0.40 g | [OH-].[Na+]
reactant | methyl 3-(4-methoxybenzenesulfonyl)-2,2-dimethyl-7-phenylheptanoate | 2.4 mmol, 1.00 g | COC1=CC=C(C=C1)S(=O)(=O)C(C(C(=O)OC)(C)C)CCCCC1=CC=CC=C1 | C23H30O5S
solvent | water | 6 mL | O | H2O
solvent | MeOH | 8 mL | CO | CH4O
product | 3-(4-methoxybenzenesulfonyl)-2,2-dimethyl-7-phenylheptanoic acid | 0.64 g, 66% | COC1=CC=C(C=C1)S(=O)(=O)C(C(C(=O)O)(C)C)CCCCC1=CC=CC=C1 | C22H28O5S
